Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with erythema
dyschromicum perstans who presents with left leg pain and recent
insect bite.  She is ___, but speaks ___.  One week ago
she was bitten by a orange and black insect, which she says did
not look like a tick or spider, on the back of her left knee and
this led to inflammation and pain in the popliteal area of her
left leg.  She is no longer having pain behind her left knee, 
but
has pain in her posterior left thigh that is "not an acute pain"
but is an ache. She denies any new rashes. She denies recent
travel.  She denies fevers.

Then she says she developed heartburn, centrally located
abdominal cramping, and new diarrhea for the past 7 days.  She
could not specify how many bowel movements she was having per
day, but says it was non-bloody and no black colored stool and
was loose but not watery.  She denies nausea or vomiting.  Her
last menstrual period started ___.  She denies NSAID use. 

She also reports left-sided headache and generalized body aches. 

She also said she felt like her tongue was swollen yesterday
(though not anymore).  She has not had dyspnea. 

She is originally from ___ and moved here ___ years ago. She 
was
seen by dermatology and diagnosed with erythema
dyschromicum perstans after skin biopsy and was started on
Dapsone in ___.  She also reports a tick bite in ___
followed by onset of generalized burning sensation.    She has
had the generalized burning sensation for ___ year, which she was
started on Gabapentin for, but she stopped around early ___
as it was not effective.  She was thought to be maybe have a
small fiber neuropathy, though this is unclear.  She has also
been seen by ID after having a positive quantiferon test.  Per
review of ID notes, she has had unremarkable testing for Lyme
disease and Bartonella, heavy metals, cortisol, and routine
laboratory studies.  She also had a renal ultrasound which 
showed
no abnormalities in ___.  The single positive test has been a
QuantiFERON gold.

In the ED, she was found to be anemic with Hb of 9.3.  
Hematology
was consulted and evaluated her peripheral smear, which they 
felt
was consistent with hemolytic anemia.  

 
Past Medical History:
Latent TB
Erythema dyschromicum perstans 
Sinus surgery in ___

 
Social History:
___
Family History:
 Both parents are alive.  Mother had osteosarcoma
___ years ago but the patient did not want to talk about her
illness.  Pt denies any known medical problems in her father.

 
Physical Exam:
Admission:
GENERAL: Alert and in no apparent distress, laying in bed, looks
stated age, appears comfortable, conversant
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Moist
mucus membranes.  No visible swelling of tongue/neck.
CV: Heart regular, no murmur, no S3, no S4.  
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored on room air.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds active.
GU: No suprapubic fullness or tenderness to palpation.  No 
Foley.
MSK: Neck supple, moves all extremities.  No peripheral edema,
wearing compression hose.  No swelling, erythema, or lesion on
posterior left knee or left thigh.  Tender to palpation over 
left
thigh posteriorly, non tender behind left knee.
SKIN: Diffuse dark, purple macules all over abdomen and axilla,
dark line down posterior left thigh.  No erythema or lesions on
posterior left knee.
NEURO: Alert, oriented, face symmetric, EOMI, speech fluent,
moves all limbs, sensation to light touch intact throughout, ___
strength in all four extremities equally
PSYCH: pleasant, appropriate affect, calm, cooperative

Discharge: 
GENERAL: Alert and in no apparent distress, laying in bed, looks
stated age, appears anxious at times, very thin.
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Moist
mucus membranes.  No visible swelling of tongue/neck.
CV: Heart regular, no murmur, no S3, no S4.  
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored on room air.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds active.
GU: No suprapubic fullness or tenderness to palpation.  No 
Foley.
MSK: Neck supple, moves all extremities.  No peripheral edema,
wearing compression hose.  No swelling, erythema, or lesion on
posterior left knee or left thigh.  Tender to palpation over 
left
thigh posteriorly, non tender behind left knee.
SKIN: Diffuse dark, purple macules all over abdomen and axilla,
dark line down posterior left thigh.  No erythema or lesions on
posterior left knee.
NEURO: Alert, oriented, face symmetric, EOMI, speech fluent,
moves all limbs, sensation to light touch intact throughout, ___
strength in all four extremities equally
PSYCH: pleasant, appropriate affect, calm, cooperative

 
Pertinent Results:
Admission:

___ 06:45AM   WBC-7.8 RBC-2.93* HGB-9.3* HCT-28.4* MCV-97 
MCH-31.7 MCHC-32.7 RDW-14.6 RDWSD-52.1*
___ 06:45AM   HOS-AVAILABLE 
___ 06:45AM   PLT COUNT-275
___ 06:45AM   RET AUT-5.7* ABS RET-0.17*
___ 01:48AM   LACTATE-0.7
___ 01:30AM   GLUCOSE-88 UREA N-14 CREAT-0.6 SODIUM-143 
POTASSIUM-4.2 CHLORIDE-106 TOTAL CO2-26 ANION GAP-11
___ 01:30AM   estGFR-Using this
___ 01:30AM   ALT(SGPT)-14 AST(SGOT)-17 LD(LDH)-227 
CK(CPK)-72 ALK PHOS-49 TOT BILI-1.2
___ 01:30AM   LIPASE-60
___ 01:30AM   ALBUMIN-4.4
___ 01:30AM   HAPTOGLOB-<10*
___ 01:30AM URINE  HOURS-RANDOM
___ 01:30AM URINE  UCG-NEG
___ 01:30AM   WBC-8.3 RBC-3.10* HGB-9.9* HCT-30.2* MCV-97 
MCH-31.9 MCHC-32.8 RDW-14.7 RDWSD-53.1*
___ 01:30AM   NEUTS-43.5 ___ MONOS-8.0 EOS-4.4 
BASOS-0.6 IM ___ AbsNeut-3.62 AbsLymp-3.59 AbsMono-0.67 
AbsEos-0.37 AbsBaso-0.05
___ 01:30AM   PLT COUNT-292
___ 01:30AM   PARST SMR-NEGATIVE
___ 01:30AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG

Discharge:

___ 05:50AM BLOOD WBC-8.5 RBC-3.29* Hgb-10.4* Hct-32.1* 
MCV-98 MCH-31.6 MCHC-32.4 RDW-14.5 RDWSD-52.5* Plt ___
___ 05:50AM BLOOD Plt ___
___ 05:50AM BLOOD Glucose-84 UreaN-15 Creat-0.7 Na-141 
K-4.2 Cl-104 HCO3-24 AnGap-13
___ 05:50AM BLOOD TotBili-1.2 DirBili-0.2 IndBili-1.0
___ 01:30AM BLOOD ALT-14 AST-17 LD(LDH)-227 CK(CPK)-72 
AlkPhos-49 TotBili-1.2
___ 01:30AM BLOOD ANAPLASMA PHAGOCYTOPHILUM (HUMAN 
GRANULOCYTIC EHRLICHIA AGENT) IGG/IGM-PND
___ 01:48AM BLOOD Lactate-0.7

imaging:
CXR:  
No comparison.  The lung volumes are normal.  Normal size of the 
cardiac 
silhouette.  Normal hilar and mediastinal contours.  No 
pneumonia, no 
pulmonary edema, no pleural effusions.  No evidence of TB. 

 
Brief Hospital Course:
Ms. ___ is a ___ female with no PMH, with a number 
of subacute symptoms including non-bloody diarrhea, abdominal 
cramping, heartburn, left leg pain after an insect bite on her 
left leg, who was found to have new anemia (which is unlikely to 
be related to her other complaints), likely ___ dapsone use. 

ACUTE/ACTIVE PROBLEMS:
# Hemolytic anemia: Per hematology, this may be secondary to 
Dapsone, as smear showed diffuse bite cells and also Heinz 
bodies, concerning for oxidative damage. Had negative G6PD
testing prior to starting Dapsone, but can cause hemolysis even 
without G6PD. Coomb's testing was negative. There were other 
considerations for etiology especially given recent insect bite, 
including Lyme, anaplasma, and G6PD, which were pending on 
discharge. Since her hemoglobin improved to 10.4 on day of 
discharge, decision was made to hold her dapsone and discharge 
home with plan for heme follow up. 

#?Latent Tb: recent positive quant gold. Saw Dr. ___ in ___ 
clinic on ___, he wants to review her outside hospital data 
prior to initiating latent TB treatment. CXR this admission with 
no evidence of old or new TB.

# Abdominal cramping/Diarrhea: Unclear etiology. She's been 
afebrile. Denies hematochezia or melena. No recent travel. No 
recent antibiotics or hospitalization that would increase risk
for C. difficile. No diarrhea while admitted. She requested that 
she see a GI doctor as an outpatient to discuss ongoing 
abdominal pain (non-concerning, likely functional).

# Heartburn: Apparently new over past 1 week. Not had 
nausea/vomiting. Recommended OTC zantac 

# Left leg pain/insect bite: No evidence of rash in popliteal 
area or on posterior thigh. She isn't having pain behind her 
knee anymore, but left thigh pain. Follow up Lyme/Anaplasma 
results on discharge.

CHRONIC/STABLE PROBLEMS:
# Erythema dyschromicum perstans: Started on Dapsone in ___. Holding Dapsone due to concern for 
hemolysis as a result. She will call her dermatologist to 
discuss further treatment.

# Generalized burning sensation/neuropathic pain?: Ongoing for ___ 
year, not improved with Gabapentin. 

Transitional Issues:
[] Follow up Lyme/Anaplasma results on discharge.
[] Needs to f/u with ID regarding ?latent TB treatment. Dr. 
___ to review all her medical records prior to treating.
[] Heme/onc follow up with CBC recheck on discharge for new 
hemolytic anemia.
[] F/u G6PD on discharge

More than 30 minutes were spent preparing this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dapsone 50 mg PO DAILY 

 
Discharge Medications:
1.  Ranitidine 150 mg PO DAILY 
you can buy this at the pharmacy  
2. HELD- Dapsone 50 mg PO DAILY  This medication was held. Do 
not restart Dapsone until your dermatologist tells you to

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: GERD, insect bite, hemolytic anemia (drug induced)
Secondary: Erythema dyschromicum perstans

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because you were having pain in your 
leg and abdomen following a bug bite. We also found that you had 
low blood counts which was related to your dapsone medication. 
You should STOP TAKING DAPSONE until you see your dermatologist.

You should be seen by your PCP, your ID doctor Dr. ___ 
___ doctor, ___. 

We wish you all the best.

Sincerely,

Your care team at ___
 
Followup Instructions:
___